US07105544B2
1-(4-CHLOROPHENYL)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)CYCLOBUTANECARBOXAMIDE
Example 43 was prepared from 1-(4-chlorophenyl)cyclobutanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.56 (s, 1H), 7.41 (s, 1H), 7.34–7.21 (m, 6H), 6.93 (s, 1H), 6.48 (s, 1H), 3.31–3.24 (m, 2H), 2.94–2.86 (m, 2H), 2.86–2.76 (m, 2H), 2.57–2.37 (m, 4H), 2.33–2.26 (m, 2H), 2.12–2.02 (m, 1H), 1.97–1.87 (m, 3H), 1.82 (s, 1H), 1.79 (s, 1H), 1.70–1.56 (m, 4H), 1.24 (d, 6H, J=7.2 Hz); ESMS m/e: 496.3 (M+H)+; Anal. Calc. for C29H38ClN3O2.0.550 CHCl3: C, 63.18; H, 6.92; N, 7.48. Found: C, 63.22; H, 6.90; N, 7.48.

reactant | 1-(4-chlorophenyl)cyclobutanecarboxylic acid | ClC1=CC=C(C=C1)C1(CCC1)C(=O)O | C11H11ClO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-CHLOROPHENYL)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)CYCLOBUTANECARBOXAMIDE | ClC1=CC=C(C=C1)C1(CCC1)C(=O)NCCCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O | C29H38ClN3O2
